US05328911
(1) 4-Chloro-2,3-diaminopyridine
3.6 g of 2-amino-4-chloro-3-nitropyridine was added to 21 ml of methanol and 24 ml of concentrated hydrochloric acid, and the mixture was vigorously stirred. Powdery iron was added in small portions to the mixture. 10 min after the completion of the addition, the mixture was poured into an iced concentrated aqueous ammonia and extracted with ethyl acetate. The extract was dried over magnesium sulfate, and the solvent was distilled off in vacuo. The residue was purified by silica gel chromatography (CH2Cl2 :MeOH=20:1-10:1) to prepare 2.6 g of 4-chloro-2,3-diaminopyridine as a purplish white crystal.

reactant | 2-amino-4-chloro-3-nitropyridine | 3.6 g | NC1=NC=CC(=C1[N+](=O)[O-])Cl | C5H4ClN3O2
reactant | hydrochloric acid | 24 ml | Cl | ClH
reactant | ammonia | N | H3N
catalyst | iron | [Fe] | Fe
solvent | methanol | 21 ml | CO | CH4O
product | 4-Chloro-2,3-diaminopyridine | ClC1=C(C(=NC=C1)N)N | C5H6ClN3
